US09108969B2
Preparation of 2-(9-Chloro-7-(3-cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 42)
To a solution of 2-(7-(3-cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (30 mg, 0.072 mmol) in DCM (2 mL) was added N-chlorosuccinimide (10.1 mg, 0.075 mmol) at 0° C. The reaction was stirred at that temperature for 40 min, diluted with DCM, washed with aqueous Na2S2O3 solution and water, and dried over anhydrous Na2SO4. The solvent was evaporated, and the residue was passed through a silica gel column with 5% MeOH/DCM to give the title compound as beige solid (23 mg). LCMS m/z=453.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.41 (d, J=6.0 Hz, 6H), 2.29-2.38 (m, 1H), 2.58 (dd, J=16.7, 10.5 Hz, 1H), 2.66 (s, 3H), 2.88-2.98 (m, 1H), 3.33 (dd, J=16.7, 3.7 Hz, 1H), 3.76-3.84 (m, 1H), 3.90-3.98 (m, 1H), 4.05-4.13 (m, 1H), 4.62-4.68 (m, 1H), 4.94 (s, 2H), 6.84 (d, J=8.8 Hz, 1H), 6.95-6.98 (m, 2H), 7.56-7.62 (m, 2H).

reactant | 2-(7-(3-cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 0.072 mmol, 30 mg | C(#N)C=1C=C(COC2=C(C=3C=C4N(C3C=C2)CCC4CC(=O)O)C)C=CC1OC(C)C | C25H26N2O4
reactant | N-chlorosuccinimide | 0.075 mmol, 10.1 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(9-Chloro-7-(3-cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 23 mg | ClC1=C2N(C=3C=CC(=C(C13)C)OCC1=CC(=C(C=C1)OC(C)C)C#N)CCC2CC(=O)O | C25H25ClN2O4
